US07173025B1
A stirred mixture of 4-(4-fluorobenzoyl)piperidine, hydrochloride salt (3.90 g), 4-chloropyridine, hydrochloride salt (2.85 g) and triethylamine (4.90 ml) in xylene (75 ml) was heated at 145° C. for 27 hours. The solvent was evaporated and the residue partitioned between methylene chloride (150 ml) and water (100 ml), the pH being adjusted to ˜10 with 0.880 ammonia. The aqueous phase was extracted with a further methylene chloride (50 ml). The combined organic phases were washed with water, dried (Mg SO4) and evaporated. The residue was purified by column chromatography using a 19:1 mixture of methylene chloride and methanol as eluent to give 4-(4-fluorobenzoyl)-1-(4-pyridyl)piperidine (1.89 g);

reactant | 4-(4-fluorobenzoyl)piperidine, hydrochloride salt | 3.90 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 4-chloropyridine, hydrochloride salt | 2.85 g | Cl.ClC1=CC=NC=C1
reactant | triethylamine | 4.90 ml | C(C)N(CC)CC | C6H15N
solvent | xylene | 75 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-fluorobenzoyl)-1-(4-pyridyl)piperidine | 1.89 g | FC1=CC=C(C(=O)C2CCN(CC2)C2=CC=NC=C2)C=C1 | C17H17FN2O
